US06831074B2
(5R)-5-Methyl-4,5,6,7-tetrahydro[1,2,3]oxadiazolo[3,4-a]pyridin-8-ium-3-olate
Concentrated hydrochloric acid (6.0 ml) was added to a suspension of (2R,4R)-4-methyl-2-piperidinecarboxylic acid (Biochem. Biophys. Res. Commun. 1981; 101(2); 440) (10 g, 7.03 mmol), in water (30 ml) and this solution cooled to −5° C. A solution of sodium nitrite (5.3 g, 7.7 mmol), in water (20 ml) was then added, and this solution stirred at room temperature for 2 hours. The mixture was extracted with dichloromethane, twice, and the combined organic extracts were dried (MgSO4) and evaporated under reduced pressure to give a white solid. Trifluoroacetic anhydride (11 ml, 7.70 mmol) was added to a cooled (−3° C.) solution of the intermediate product in ether (200 ml) and the reaction stirred overnight at room temperature. The mixture was evaporated under reduced pressure, and the residue purified by column chromatography using ethyl acetate as the eluant. The title compound was obtained as a brown crystalline solid, 7.1 g.

reactant | hydrochloric acid | 6.0 ml | Cl | ClH
reactant | (2R,4R)-4-methyl-2-piperidinecarboxylic acid | 7.03 mmol, 10 g | C[C@H]1C[C@@H](NCC1)C(=O)O | C7H13NO2
reactant | sodium nitrite | 7.7 mmol, 5.3 g | N(=O)[O-].[Na+]
reactant | Trifluoroacetic anhydride | 7.70 mmol, 11 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | 30 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | ether | 200 ml | CCOCC | C4H10O
product | (5R)-5-Methyl-4,5,6,7-tetrahydro[1,2,3]oxadiazolo[3,4-a]pyridin-8-ium-3-olate | C[C@H]1CC=2[N+](CC1)=NOC2[O-] | C7H10N2O2
